"VampBias"
.detector V_out
R3 0 3 R value={R_B1} noisetemp=0 noiseflow=0 dcvar={sigma_R^2} dcvarlot=0
R4 4 out R value={R_B2} noisetemp=0 noiseflow=0 dcvar={sigma_R^2} dcvarlot=0
X1 3 4 out 0 O_dcvar svo={v_off} sio={i_off} sib={sigma_ib*I_b} iib={I_b}
.end